US08314092B2
Dissolve methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate dihydrochloride (112.0 g, 409.95 mmoles) in water (250 mL). Add solid sodium bicarbonate to give an aqueous layer of pH 4 and extract the mixture into a solution of 10% DCM in diethyl ether (300 mL) to remove some dark solid matter and some color. Discard the organic layer. Basify the aqueous phase to pH 8 with 2M aqueous sodium hydroxide solution, then saturate with solid sodium chloride. Extract into a 10% solution of isopropanol in chloroform. Add further 2M aqueous sodium hydroxide to maintain pH 8. Repeat the extraction into a 10% solution of isopropanol in chloroform. Continue the extraction process until 85% of the expected material has been recovered. Wash the isopropanol in chloroform solution with brine, dry over Na2SO4, filter and evaporate to give methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate hydrochloride (82.1 g % yield). MS (m/z): 201.1 (M+1).

reactant | methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate dihydrochloride | 409.95 mmoles, 112.0 g | Cl.Cl.CC(C(=O)OC)(CN1CCNCC1)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 250 mL | O | H2O
product | methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate hydrochloride | 82.1 g | Cl.CC(C(=O)OC)(CN1CCNCC1)C | InChI=1S/C10H20N2O2.ClH/c1-10(2,9(13)14-3)8-12-6-4-11-5-7-12;/h11H,4-8H2,1-3H3;1H
